US07834013B2
Trifluoroacetic anhydride (10.3 mL, 73.9 mmol) was added to a solution of 4-aminostyrene (8.00 g, 67.2 mmol) and pyridine (8.1 mL, 100.8 mmol) in 100 mL of dichloromethane at 0° C. The reaction mixture was diluted with dichloromethane and washed with 1N aqueous hydrochloric acid, dried over anhydrous sodium sulfate, concentrated under vacuum and purified by chromatography (silica gel, hexane:ethyl acetate) to give 10.89 g (75%) of 2,2,2-trifluoro-N-(4-vinylphenyl)acetamide (VIII-3) as a white solid. 1H NMR (400 MHz, CDCl3) δ 7.85 (br s, 1H), 7.52 (d, J=8.61 Hz, 2H), 7.42 (d, J=8.61 Hz, 2H), 6.67 (dd, J=10.99 Hz, 17.58 Hz, 1H), 5.73 (d, J=17.58 Hz, 1H), 5.27 (d, J=10.80 Hz, 1H). (2R)-4-tert-Butyl-2-{1-[(4R)-4-tert-butyl-4,5-dihydro-1,3-oxazol-2-yl]-1-methylethyl}-4,5-dihydro-1,3-oxazole (VIII-A) (0.147 g, 0.501 mmol) prepared as described by Evans et al., J. Am. Chem. Soc. 1991, 113, 726-728, was added to a suspension of copper (I) trifluormethanesulfonate-toluene complex (2:1) in 15 mL of chloroform at room temperature. After 1.5 hours the mixture was added to a solution of 2,2,2-trifluoro-N-(4-vinylphenyl)acetamide (10.77 g, 50.1 mmol) in 200 mL of chloroform. A small amount (2-3 mL) of a solution of ethyl diazoacetate (7.8 mL, 74.1 mmol) in 100 mL of chloroform was added. The mixture was carefully warmed with a heat gun until gas evolution and a color change from green to yellow occurred. The remaining ethyl diazoacetate solution was added dropwise over two hours. The solvent was evaporated. The crude product (˜3:1 trans VIII-4/cis VIII-5) was dissolved in 150 mL of methanol and potassium carbonate (13.8 g, 100.2 mmol) and 50 mL of water were added. The mixture was stirred at room temperature overnight. Methanol was evaporated and the residue was extracted between dichloromethane and water. The organic phase was evaporated and the residue was purified by chromatography on silica gel with an ethyl acetate gradient (5 to 30%) in hexanes to give 1.02 g (10% yield) of the title compound as a yellow oil. 1H NMR (400 MHz, CDCl3) δ 6.89 (d, J=8.24 Hz, 2H), 6.59 (d, J=8.42 Hz, 2H), 4.14 (quartet, J=7.14 Hz, 2H), 3.59 (br s, 2H), 2.41 (m, 1H), 1.75 (m, 1H), 1.50 (m, 1H), 1.26 (t, J=7.14 Hz, 3H), 1.21 (m, 1H).

reactant | Trifluoroacetic anhydride | 73.9 mmol, 10.3 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 4-aminostyrene | 67.2 mmol, 8.00 g | NC1=CC=C(C=C)C=C1 | C8H9N
reactant | pyridine | 100.8 mmol, 8.1 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2,2,2-trifluoro-N-(4-vinylphenyl)acetamide | 10.89 g, 75% | FC(C(=O)NC1=CC=C(C=C1)C=C)(F)F | C10H8F3NO
